US04028319
A solution of 17.6 parts N-t-butoxycarbonyl-L-tyrosine 2,4,5-trichlorophenyl ester, 9.0 parts glycyl-L-alanine benzyl ester hydrochloride and 1.2 parts N-methylmorpholine in 200 parts methylene chloride is stirred for 16 hours at room temperature. Removal of the solvent under reduced pressure affords a crude product which is purified by low pressure column chromatography to give N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanine benzyl ester. The purified material is dissolved in 400 parts methanol. Then, 0.4 part palladium black metal catalyst is added and the mixture shaken with hydrogen at atmospheric pressure and room temperature for about 5 hours. The catalyst is removed by filtration, and the solvent is removed by evaporation under reduced pressure. The resulting material is purified by low-pressure chromatography to give N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanine. This compound is represented by the following formula

reactant | N-t-butoxycarbonyl-L-tyrosine 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C20H20Cl3NO5
reactant | glycyl-L-alanine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC(CN)=O)C)=O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)=O)C)=O | C26H33N3O7
